US07893056B2
Ether (7.5 mL) was added to the above solution of 2-(3-bromo-2-oxopropyl)-1H-isoindole-1,3(2H)-dione and cooled to 0° C. in an ice/NaCl salt bath. Then thioformamide (European Journal of Medicinal Chemistry, 2004, 39, 867-872.) (1.20 g) in EtOH (8 mL) was added, and the reaction was stirred overnight. The solvents were evaporated and the reaction mixture was purified by RP-HPLC to provide 2-(1,3-thiazol-4-ylmethyl)-1H-isoindole-1,3(2H)-dione as a white solid. LCMS: (M+H)+=245.1.

reactant | Ether | 7.5 mL | CCOCC | C4H10O
reactant | 2-(3-bromo-2-oxopropyl)-1H-isoindole-1,3(2H)-dione | BrCC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C11H8BrNO3
reactant | thioformamide | 1.20 g | C(=S)N | CH3NS
solvent | EtOH | 8 mL | CCO | C2H6O
product | 2-(1,3-thiazol-4-ylmethyl)-1H-isoindole-1,3(2H)-dione | S1C=NC(=C1)CN1C(C2=CC=CC=C2C1=O)=O | C12H8N2O2S
